US07528147B2
7.54 ml of a solution of N-butyllithium at 1.6 N in hexane is added, dropwise, maintaining the temperature of the medium in the region of −75° C., to a solution, cooled to approximately −78° C., of 3.5 g of 5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 100 ml of tetrahydrofuran. After agitation for approximately one hour at the same temperature, a solution of 6.12 g of bisublimated iodine in 50 ml of tetrahydrofuran is run in dropwise. After the temperature has returned to around 20° C., the reaction mixture is diluted with 600 ml of ethyl acetate, washed three times with 100 ml of a 5% aqueous sodium thiosulfate solution, dried over magnesium sulfate, treated with vegetable black, filtered, and concentrated to dryness under reduced pressure (13 kPa). The residue is taken up with 30 ml of diisopropyl ether, filter-dried, washed with three times 5 ml of diisopropyl ether, and dried under reduced pressure (13 kPa). 3.6 g of 5-fluoro-2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained in the form of a solid, the characteristics of which are as follows:

reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | 5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.5 g | FC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11FN2O2S
reactant | iodine | 6.12 g | II | I2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.6 g | FC=1C=C2C(=NC1)N(C(=C2)I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10FIN2O2S
